US05525730
Preparation of N-[(4,6-dimethoxypyrimidin-2-yl)amino-carbonyl]-4-ethoxycarbonyl-1-methylpyrazole-5-sulfon-amide
3.42 g(10.1 mmole) of 1-[[(4-ethoxycarbonyl-1-methylpyrazole-5-sulfonyl)amino]carbonyl]pyridinium hydroxide was dissolved in 10.00 g of dry acetonitrile. To the resulting solution was added 1.55 g(10.0 mmole) of 2-amino-4,6-dimethoxypyrimidine with stirring. The reaction mixture was stirred for one hour while maintaining the temperature of 40° to 45° C. to complete the reaction. After the reaction was completed, 25.00 g of water was added to the reaction solution. The mixture was then adjusted to pH 5 to 6, cooled to 25° C. and filtered. The resulting product was washed with water and acetonitrile and then dried to obtain 4.10 g (Yield 99%) of the title compound as the white powder.

reactant | 1-[[(4-ethoxycarbonyl-1-methylpyrazole-5-sulfonyl)amino]carbonyl]pyridinium hydroxide | 10.1 mmole, 3.42 g | [OH-].C(C)OC(=O)C=1C=NN(C1S(=O)(=O)NC(=O)[N+]1=CC=CC=C1)C
reactant | 2-amino-4,6-dimethoxypyrimidine | 10.0 mmole, 1.55 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | water | 25.00 g | O | H2O
solvent | acetonitrile | 10.00 g | C(C)#N | C2H3N
product | N-[(4,6-dimethoxypyrimidin-2-yl)amino-carbonyl]-4-ethoxycarbonyl-1-methylpyrazole-5-sulfon-amide | 4.10 g, Yield 99% | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=NN1C)C(=O)OCC | C14H18N6O7S
